US08278336B2
Step 3: 5-fluoro-3,3-dimethyl-1,3-dihydroindol-2-one
2.10 g (9.49 mmol) 1-acetyl-5-fluoro-3,3-dimethyl-1,3-dihydro-indol-2-one in 20 mL isopropanol were refluxed with 50 mL of a 6M aqueous HCl solution for 1 h. After cooling the isopropanol was eliminated i. vac. The residue was diluted with water and cooled with ice. The precipitated substance was suction filtered and washed with water. The solid was dried i. vac.

reactant | 1-acetyl-5-fluoro-3,3-dimethyl-1,3-dihydro-indol-2-one | 9.49 mmol, 2.10 g | C(C)(=O)N1C(C(C2=CC(=CC=C12)F)(C)C)=O | C12H12FNO2
reactant | HCl | 6M | Cl | ClH
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 5-fluoro-3,3-dimethyl-1,3-dihydroindol-2-one | FC=1C=C2C(C(NC2=CC1)=O)(C)C | C10H10FNO
